US06348468B1
Preparation of 5,6-bis(3-fluoro-4-methoxyphenyl)-2-cyclopropylmethyl-2H-pyridazin-3-one
Using 5,6-bis(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one and (chloromethyl)cyclopropane as starting materials, the procedures of Example 146 were repeated likewise, whereby the title compound was obtained quantitatively.

reactant | 5,6-bis(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C1=CC(NN=C1C1=CC(=C(C=C1)OC)F)=O | C18H14F2N2O3
reactant | (chloromethyl)cyclopropane | ClCC1CC1 | C4H7Cl
product | 5,6-bis(3-fluoro-4-methoxyphenyl)-2-cyclopropylmethyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C1=CC(N(N=C1C1=CC(=C(C=C1)OC)F)CC1CC1)=O | C22H20F2N2O3
